US08466201B2
N-(2-Hydroxyethyl)-3-(2,4,6-trichlorophenylamino)-benzenesulfonamide (I)
To a stirred solution of 3-Amino-N-(2-hydroxyethyl)-benzene sulfonamide (200 mg, 0.93 mmol), 1,3,5-trichloro-2-bromobenzene (301 mg, 1.16 mmol), K2CO3 (319 mg, 2.31 mmol) and XantPhos (54 mg, 0.093 mmol) in acetonitrile (2 ml) under nitrogen in a microwave tube was added Pd2dba3 (43 mg, 0.047 mmol) in one portion and the tube sealed. The reaction was heated with stirring in a microwave at 150° C. for 45 minutes. The reaction was cooled before filtering through celite. The crude reaction mixture was part-purified by column chromatography eluting with ethyl acetate:hexane and the concentrated fractions further purified by preparative chromatography under acidic conditions to afford the named product (96.3 mg, 26%); 6H (400 MHz, DMSO) 8.45 (1H, s), 7.82 (2H, s), 7.54 (1H, t), 7.33 (1H, t), 7.13 (1H, d), 6.93 (1H, s), 6.76 (1H, d), 4.70 (1H, brs), 3.35 (2H, m) and 2.75 (2H, q); LCMS Rt=3.79 min, m/z (ES−) 392 (M−H)

reactant | 3-Amino-N-(2-hydroxyethyl)-benzene sulfonamide | 0.93 mmol, 200 mg | NC=1C=C(C=CC1)S(=O)(=O)NCCO | C8H12N2O3S
reactant | 1,3,5-trichloro-2-bromobenzene | 1.16 mmol, 301 mg | ClC1=C(C(=CC(=C1)Cl)Cl)Br | C6H2BrCl3
reactant | K2CO3 | 2.31 mmol, 319 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | XantPhos | 0.093 mmol, 54 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
catalyst | Pd2dba3 | 0.047 mmol, 43 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(2-Hydroxyethyl)-3-(2,4,6-trichlorophenylamino)-benzenesulfonamide | 96.3 mg, 26% | OCCNS(=O)(=O)C1=CC(=CC=C1)NC1=C(C=C(C=C1Cl)Cl)Cl | C14H13Cl3N2O3S
